US09376443B2
7-Phenyl-3-[6-(tetrahydro-furan-3-yloxymethyl)pyridin-2-ylmethyl]-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
This was prepared from 7-chloro-3-{6-[(S)-(tetrahydrofuran-3-yl)oxymethyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine and phenylboronic acid by the method of Example 13 to give 0.060 g (68%).

reactant | 7-chloro-3-{6-[(S)-(tetrahydrofuran-3-yl)oxymethyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)CO[C@@H]2COCC2 | C15H16ClN7O2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 7-Phenyl-3-[6-(tetrahydro-furan-3-yloxymethyl)pyridin-2-ylmethyl]-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | C1(=CC=CC=C1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)COC2COCC2 | C21H21N7O2
